US06348032B1
To an ethanol (4 ml) solution of 2-benzyl-6-ethoxycarbonyl-1-methylbenzimidazole (0.340 g), 5% sodium hydroxide aqueous solution (2.8 g) is added, and the solution is refluxed by heating for 1.5 hours. The solution is made acidic using 1N hydrochloric acid and concentrated under reduced pressure. Ethanol is added to the residue and organic materials are extracted. The ethanol is removed under reduced pressure and thus, 2-benzyl-6-carboxy-1-methylbenzimidazole hydrochloride (0.300 g) is obtained. 1H-NMR (DMSO-d6, δ): 4.00 (3H, s), 4.62 (2H, s), 7.33 (1H, m), 7.35-7.45 (4H, m), 7.83 (1H, d, J=8.4 Hz), 8.06 (1H, d, J=8.4 Hz), 8.42 (1H, s), 13.3 (1H, br s).

reactant | 2-benzyl-6-ethoxycarbonyl-1-methylbenzimidazole | 0.340 g | C(C1=CC=CC=C1)C1=NC2=C(N1C)C=C(C=C2)C(=O)OCC | C18H18N2O2
reactant | sodium hydroxide | 2.8 g | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2-benzyl-6-carboxy-1-methylbenzimidazole hydrochloride | 0.300 g | Cl.C(C1=CC=CC=C1)C1=NC2=C(N1C)C=C(C=C2)C(=O)O | InChI=1S/C16H14N2O2.ClH/c1-18-14-10-12(16(19)20)7-8-13(14)17-15(18)9-11-5-3-2-4-6-11;/h2-8,10H,9H2,1H3,(H,19,20);1H
